US05908846
3,6-dipropionyl morphine (Formula I, R1 =R2 =C2H5CO)
A mixture of morphine (2.0 g) and propionic anhydride (5.0 ml) was stirred at 90° C. for 4 h. Upon cooling to room temperature water (40 ml) was added. After 1 h the solution was partitioned between ether (50 ml) and 10% potassium hydroxide solution (40 ml). The ether phase was separated, washed with water, dried over anhydrous sodium sulphate and evaporated in vacuo. The residue obtained was crystallized form ethanol-water to yield 2.7 g of the title compound, m.p. 106-107° C.

reactant | morphine | 2.0 g | C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5 | C17H19NO3
reactant | propionic anhydride | 5.0 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | water | 40 ml | O | H2O
product | 3,6-dipropionyl morphine | 2.7 g | C(CC)(=O)C1(CC=C2C[C@@H]3[C@@H]4C=C[C@@]([C@H]5[C@@]4(C2=C1O5)CCN3C)(O)C(CC)=O)O | C23H29NO5
